US08293909B2
3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid.
3-Carboxyphenylboronic acid (700 mg, 4.22 mmol), 5-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridine (750 mg, 2.57 mmol), Pd(Ph3P)4 (30 mg, 0.026 mmol), and Cs2CO3 (1.25 g, 3.84 mmol) were combined in dioxane (20 mL) and water (4 mL). The mixture was evacuated/backfilled with nitrogen (3×). The reaction was heated to 95° C. under N2 (g) overnight. The mixture was partitioned between EtOAc and 1 N HCl. The organic phase was washed with water and brine, dried over MgSO4, filtered, and concentrated to give a brown solid which was triturated with Et2O to give the expected product 3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid (255 mg, 30% yield) consistent by LCMS. LC-MS retention time: 1.83 min; m/z (MH+): 334. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna 10 u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | 3-Carboxyphenylboronic acid | 4.22 mmol, 700 mg | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | 5-bromo-2-(4-fluorophenyl)furo[2,3-b]pyridine | 2.57 mmol, 750 mg | BrC=1C=C2C(=NC1)OC(=C2)C2=CC=C(C=C2)F | C13H7BrFNO
reactant | Cs2CO3 | 3.84 mmol, 1.25 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.026 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-(4-fluorophenyl)furo[2,3-b]pyridin-5-yl)benzoic acid | 255 mg, 30% yield | FC1=CC=C(C=C1)C1=CC=2C(=NC=C(C2)C=2C=C(C(=O)O)C=CC2)O1 | C20H12FNO3
